US04831184
To tert-butyl N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-(S)-alanyl-N-(2-indanyl)glycinate (1.4 g, 2.75 mmoles) was added p-dioxane which had been saturated with anhydrous hydrogen chloride (35 ml). the resulting solution was stirred for two and a half hourst at room temperature and then solvent was evaporated to afford a colorless solid. Anhydrous diethyl ether was added to the residue and the product was filtered and washed with a small amount of ether to give N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-(S)-alanyl-N-(2-indanyl)glycine hydrochloride (1.1 g, 84.6%) as a colorless solid: m.p. 181°; [α]DETOH=+16.44°; mass spectra (CI): 435.6(m+1-H2O, 100%).

reactant | tert-butyl N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-(S)-alanyl-N-(2-indanyl)glycinate | 2.75 mmoles, 1.4 g | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)OC(C)(C)C)C1CC2=CC=CC=C2C1 | C30H40N2O5
reactant | p-dioxane | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | 35 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-(S)-alanyl-N-(2-indanyl)glycine hydrochloride | 1.1 g, 84.6% | Cl.C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C26H32N2O5.ClH/c1-3-33-26(32)23(14-13-19-9-5-4-6-10-19)27-18(2)25(31)28(17-24(29)30)22-15-20-11-7-8-12-21(20)16-22;/h4-12,18,22-23,27H,3,13-17H2,1-2H3,(H,29,30);1H/t18-,23-;/m0./s1
